US07897619B2
(2S)-4-(4-(1H-Indazol-5-yl)-1H-1,2,3-triazol-1-yl)-1-(4-(trifluoromethyl)phenyl)butan-2-amine:
As shown in Scheme 12, Example 37 was synthesized starting with commercially available (S)-3-amino-4-(4-(trifluoromethyl)phenyl)butanoic acid hydrochloride [PepTech Corporation, 20 Mall Road, Suite 460, Burlington, Mass. 01803, USA) and 5-bromo-1H-indazole [Fisher Scientific, 2000 Park Lane Drive, Pittsburgh, Pa. 15275, USA]. The 2 step synthesis of 5-ethynyl-1H-indazole was performed in a similar manner as the 5-ethynyl-3-methyl-1H-indazole required for Example 38, using 5-bromo-1H-indazole instead of 5-bromo-3-methyl-1H-indazole.

reactant | (S)-3-amino-4-(4-(trifluoromethyl)phenyl)butanoic acid hydrochloride | Cl.N[C@H](CC(=O)O)CC1=CC=C(C=C1)C(F)(F)F
reactant | 5-bromo-1H-indazole | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | 5-ethynyl-1H-indazole | C(#C)C=1C=C2C=NNC2=CC1 | C9H6N2
reactant | 5-ethynyl-3-methyl-1H-indazole | C(#C)C=1C=C2C(=NNC2=CC1)C | C10H8N2
product | (2S)-4-(4-(1H-Indazol-5-yl)-1H-1,2,3-triazol-1-yl)-1-(4-(trifluoromethyl)phenyl)butan-2-amine | N1N=CC2=CC(=CC=C12)C=1N=NN(C1)CC[C@H](CC1=CC=C(C=C1)C(F)(F)F)N | C20H19F3N6
